US08067621B2
6-Chloro-4a-(4-chloro-benzenesulfonyl)-5,8-difluoro-2,3,4,4a,10,10a-hexahydro-1H-9-oxa-1-aza-phenanthrene
4a-(4-Chloro-benzenesulfonyl)-5,8-difluoro-2,3,4,4a,10,10a-hexahydro-1H-9-oxa-1-aza-phenanthrene (1.0190 g, 2.5475 mmol) was dissolved in 75 ml dichloromethane and cooled to 0° C. then triethylamine (1.1 mL) was added. The solution was stirred at 0° C. for 10 minutes then II was added slowly and the solution was stirred at 0° C. for 3 h. Then the reaction was warmed to room temperature and stirred for 1 h. The reaction was quenched with 50 ml of ice water. The organic layer washed with 50 ml of 1 N HCl solution and dried over sodium sulfate. The product was purified by column using EtOAc/Hex. as the eluent (gradient from 0/100 to 50/50 in 45 minutes). Yield: 124.0 mg, 11%. 1H NMR (CDCl3 400 MHz) δ 7.57 (d, J=8.8 Hz, 2H), 7.52 (d, J=8.8 Hz, 2H), 7.23 (dd, J=9.5, 6.6 Hz, 1H), 5.19 (dd, J=8.8, 6.6 Hz, 1H), 4.32 (d, J=11.7 Hz, 1H), 3.69 (s, 1H), 2.99 (d, J=13.1 Hz, 1H), 2.74 (td, J=13.1, 2.9 Hz, 1H), 2.64 (d, J=13.1 Hz, 1H), 2.20-2.11 (m, 1H), 1.62 (d, J=13.1 Hz, 2H), 1.19-1.06 (m, 1H).

reactant | 4a-(4-Chloro-benzenesulfonyl)-5,8-difluoro-2,3,4,4a,10,10a-hexahydro-1H-9-oxa-1-aza-phenanthrene | 2.5475 mmol, 1.0190 g | ClC1=CC=C(C=C1)S(=O)(=O)C12CCCNC2COC2=C(C=CC(=C12)F)F | C18H16ClF2NO3S
reactant | triethylamine | 1.1 mL | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | 6-Chloro-4a-(4-chloro-benzenesulfonyl)-5,8-difluoro-2,3,4,4a,10,10a-hexahydro-1H-9-oxa-1-aza-phenanthrene | ClC=1C(=C2C3(CCCNC3COC2=C(C1)F)S(=O)(=O)C1=CC=C(C=C1)Cl)F | C18H15Cl2F2NO3S
